US05900484
2-Chloro-6-[1-methyl-3-(trifluoromethyl)pyrazol-5-yloxy]pyridine
1.8 g (71 mmol) of sodium hydride (95 percent) was suspended in 25 ml of N,N-dimethylacetamide. A solution of 12.46 g (67 mmol) of 1-methyl-5-hydroxy-3-(trifluoromethyl)pyrazole (J. Heterocycl. Chem. 1990, 27, 243) in 40 ml of N,N-dimethylacetamide was added dropwise over 1 hour at 22° C. The resulting solution was added dropwise over 3 hours, under nitrogen, to a solution of 18.5 g (125 mmol) of 2,6-dichloropyridine in 37.5 ml of N,N-dimethylacetamide, heated to 135° C. After a further 5 hours of reaction time, the mixture was cooled to room temperature, the sodium chloride which had precipitated out was filtered off and the filtrate was concentrated. The residue was taken up with toluene and water and the organic phase was washed with saturated sodium chloride solution and concentrated. The solid residue was distilled under vacuum. The title compound distills at 175° C. under 25 mbar. This gave 12.5 g of crude product in the form of a yellow solid (96 percent pure, GC). This was purified by recrystallization from diisopropyl ether. The yield was 11.55 g (62 percent) of colorless crystals, content (GC): 99.9 percent. Other data concerning the product was:

reactant | sodium hydride | 71 mmol, 1.8 g | [H-].[Na+]
reactant | 1-methyl-5-hydroxy-3-(trifluoromethyl)pyrazole | 67 mmol, 12.46 g | CN1N=C(C=C1O)C(F)(F)F | C5H5F3N2O
reactant | 2,6-dichloropyridine | 125 mmol, 18.5 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | N,N-dimethylacetamide | 25 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 40 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 37.5 ml | CN(C(C)=O)C | C4H9NO
product | 2-Chloro-6-[1-methyl-3-(trifluoromethyl)pyrazol-5-yloxy]pyridine | ClC1=NC(=CC=C1)OC1=CC(=NN1C)C(F)(F)F | C10H7ClF3N3O
